US05726186
6-Methoxythianapthen-2-one
To tetrahydrofuran (200 mL) containing 2-dimethylamino-6-methoxybenzo-[b]-thiophene (cf. U.S. Pat. No. 5,420,349) (20.00 g, 96.5 mmol) was added 1N aqueous HCl (200 mL) and the resulting mixture was heated to reflux for 3 h. The mixture was cooled, the layers were separated, and the aqueous layer was extracted with dichloromethane (300 mL). The combined organic layers washed with water (250 mL), dried (MgSO4), filtered and concentrated to give crude product, which was recrystallized from 3A-ethanol, and dried in vacuo at room temperature to afford the title compound (13.89 g, 77.0 mmol, 80%): mp 80°-82° C.; IR (KBr) 1713, 1605, 1485, 1287, 1015, 865, 813 cm-1 ; 1H NMR (DMSO-d6) δ7.22 (d, 1H, J=8.4 Hz), 7.11 (s, 1H), 6.78 (d, 1H, J=8.4 Hz), 4.06 (s, 2H), 3.71 (s, 3H); 13 C NMR (DMSO-d6) δ203.5, 159.0, 136.9, 125.6, 124.6, 112.3, 108.4, 55.3, 46.2. Anal. Calcd. for C9H8O2S: C, 59.98; H, 4.47; S, 17.78. Found: C, 60.19; H, 4.57; S, 18.03.

reactant | 2-dimethylamino-6-methoxybenzo-[b]-thiophene | CN(C1=CC2=C(S1)C=C(C=C2)OC)C | C11H13NOS
reactant | HCl | 1N, 200 mL | Cl | ClH
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-Methoxythianapthen-2-one | 77.0 mmol, 13.89 g, 80% | COC1=CC2=C(CC(=O)S2)C=C1 | C9H8O2S
